US09210927B2
Preparation of (E)-2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-N-(1-(3,3,3-trifluoropropanoyl)piperidin-4-yl)benzamide (AC104)
To a stirred solution of 3,3,3-trifluoropropanoic acid (0.02 g, 0.16 mmol) in CH2Cl2 (10.0 mL), (E)-2-bromo-N-(piperidin-4-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamide (0.1 g, 0.16 mmol), PYBOP (0.09 g, 0.17 mmol), and DIPEA (0.06 g, 0.48 mmol) were added at ambient temperature. The reaction mixture was stirred at ambient temperature for 5 h. The reaction mixture was diluted with CH2Cl2. The combined CH2Cl2 layer was washed with 3N HCl and saturated NaHCO3 solution, the separated CH2Cl2 layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford crude compound. The crude compound was purified by column chromatography (SiO2, 100-200 mesh; eluting with 2% MeOH in CH2Cl2) to afford the title compound as an off white gummy material (0.035 g, 29.%).

reactant | 3,3,3-trifluoropropanoic acid | 0.16 mmol, 0.02 g | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | (E)-2-bromo-N-(piperidin-4-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamide | 0.16 mmol, 0.1 g | BrC1=C(C(=O)NC2CCNCC2)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C22H19BrCl3F3N2O
reactant | PYBOP | 0.17 mmol, 0.09 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.48 mmol, 0.06 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-N-(1-(3,3,3-trifluoropropanoyl)piperidin-4-yl)benzamide | BrC1=C(C(=O)NC2CCN(CC2)C(CC(F)(F)F)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C25H20BrCl3F6N2O2
